US04886894
Diethyl 2-aminomalonate hydrochloride (4.2 g), formylglycine (2.3 g) and 1-hydroxybenzotriazole (2.7 g) are dissolved in dimethylformamide (50 ml). To the solution are added N,N'-dicyclohexylcarbodiimide (4.33 g) and triethylamine (2.12 g) at 0° to 5° C. The mixture is stirred at the same temperature for 2 hours and at room temperature for 15 hours. The reaction mixture is concentrated under reduced pressure. To the residue is added ethyl acetate, and the mixture is filtered to remove insoluble materials. The filtrate is washed, dried and evaporated to remove the solvent. The residue is purified by silica gel column chromatography [solvent; chloroform-ethyl acetate (1:5)]to give diethyl 2-[(N-formylglycyl)amino]malonate (4.1 g), m.p. 95°-96° C.

reactant | Diethyl 2-aminomalonate hydrochloride | 4.2 g | Cl.NC(C(=O)OCC)C(=O)OCC
reactant | formylglycine | 2.3 g | C(=O)NCC(=O)O | C3H5NO3
reactant | 1-hydroxybenzotriazole | 2.7 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N'-dicyclohexylcarbodiimide | 4.33 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 2.12 g | C(C)N(CC)CC | C6H15N
product | diethyl 2-[(N-formylglycyl)amino]malonate | 4.1 g | C(=O)NCC(=O)NC(C(=O)OCC)C(=O)OCC | C10H16N2O6
